US08563575B2
Boc2O (17.05 mL) was added to a solution of 2,5-dichloropyridin-3-amine (11.4 g) and NaHMDS (1.9M, 81 mL) in THF (200 mL) at 0° C. The mixture was stirred at 0° C. under a dry atmosphere (CaCl2 tube) for 1 h. The mixture was neutralized with 1N HCl at 0° C. and extracted with EtOAc. The organic layer was separated, washed with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 0%-20% EtOAc in hexane) to give tert-butyl (2,5-dichloropyridin-3-yl)carbamate (15.6 g) as colorless oil.

reactant | Boc2O | 17.05 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2,5-dichloropyridin-3-amine | 11.4 g | ClC1=NC=C(C=C1N)Cl | C5H4Cl2N2
reactant | NaHMDS | 1.9M, 81 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | tert-butyl (2,5-dichloropyridin-3-yl)carbamate | 15.6 g | ClC1=NC=C(C=C1NC(OC(C)(C)C)=O)Cl | C10H12Cl2N2O2
